US08309580B2
(1) 2-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}pyridine hydrochloride
To a solution of cyclohexyl[2-methyl-5-(pyridin-2-yl)furan-3-yl]methanol (0.7 g) in toluene (20 mL) was added thionyl chloride (1.3 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (0.8 g, 100%) as a yellow crystal.

reactant | cyclohexyl[2-methyl-5-(pyridin-2-yl)furan-3-yl]methanol | 0.7 g | C1(CCCCC1)C(O)C1=C(OC(=C1)C1=NC=CC=C1)C | C17H21NO2
reactant | thionyl chloride | 1.3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}pyridine hydrochloride | 0.8 g, 100% | Cl.ClC(C=1C=C(OC1C)C1=NC=CC=C1)C1CCCCC1 | InChI=1S/C17H20ClNO.ClH/c1-12-14(17(18)13-7-3-2-4-8-13)11-16(20-12)15-9-5-6-10-19-15;/h5-6,9-11,13,17H,2-4,7-8H2,1H3;1H
